reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C:2]([C:3]([C:4][O:6][H:16])([H:11])[H:12])([C:5]([H:13])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]([H:13])([H:14])[H:15])[O:6][H:16])([H:7])([H:8])[H:9],56.05261880400539
[C:1]([C:2](=[O:3])[C:4](=[O:5])[C:6](=[O:7])[H:11])([H:8])([H:9])[H:10]>>[C:1]([O:5][C:4](=[C:2]=[O:3])[C:6](=[O:7])[H:11])([H:8])([H:9])[H:10],98.1789400187996
[C:2]1([C:5]#[N:6])=[C:3]([H:9])[C:4]1([H:10])[H:11].[O:1]([H:7])[H:8]>>[O:1]([C:2]1([C:5]#[N:6])[C:3]([H:8])([H:9])[C:4]1([H:10])[H:11])[H:7],48.31816458997341
[C:1]([N:2](/[C:3](=[N:4]\[H:11])[C:5](=[O:6])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N:2]=[C:3]=[N:4][H:11])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:10])[H:12],94.0354001667514
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([O:5][H:11])[C:6]#[C:7][H:15])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4](=[O:5])[C:6]#[C:7][H:15])[H:11])([H:8])([H:9])[H:10],59.62759055703311
[C:1]([C@@:2]([C:3](=[O:4])[H:12])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([O:6]/[C:5](=[C:2](/[C:3](=[O:4])[H:12])[H:11])[N:7]([H:13])[H:14])([H:8])([H:9])[H:10],88.8010016662445
[C:1]([C:5]([C:2]([C:3]([H:10])([H:11])[H:12])=[O:4])([H:14])[H:15])([H:7])([H:8])[H:9].[O:6]([H:13])[H:16]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([O:4][H:13])[C:5]([O:6][H:16])([H:14])[H:15])([H:7])([H:8])[H:9],83.57517399963876
[C:1]([C:2][C@@:4]([C:3]([H:10])([H:11])[H:12])([C:5](=[O:6])[H:14])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5](=[O:6])[H:14])[H:13])([H:7])([H:8])[H:9],3.68290144778139
[C:1]1([H:8])([H:9])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[O:4][C@:5]1([O:6][H:10])[N:7]([H:15])[H:16]>>[C:1]([C:2]([C:3]([O:4][C:5](=[O:6])[N:7]([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],57.15353864568851
[C:4](=[C:5]([C:6]([O:7][H:16])([H:14])[H:15])[H:13])([H:10])[H:11].[N:1]([C:2][O:3][H:12])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[C:4]([C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9],15.913415005186593
[C:1](=[C:2]([C@@:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([C:6](=[O:7])[H:19])[H:13])[H:12])([H:9])[H:10].[H:8][H:11]>>[C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([C:6](=[O:7])[H:19])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],83.14107034783581
[C:1]([C:2]([C:3]([C:4]([C:5]([O:6][C:7]([H:19])([H:20])[H:21])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([C:5](=[O+:6][C-:7]([H:19])[H:20])[H:17])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[H:18][H:21],82.8239157680654
[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5]#[N:6])[H:10])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3](=[C:5]=[N:6][O:4][H:11])[H:10])([H:8])[H:9])[H:7],103.976858086447
[C:1]([O:4][C:3](=[C:2]([H:10])[H:11])[C:5]#[C:6][H:12])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[O:4])[C:5]#[C:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9],77.4449705509104
[C:1]([O:4][H:13])([H:7])([H:8])[H:9].[C:2](=[C:3]([C:5]([O:6][H:16])([H:14])[H:15])[H:12])([H:10])[H:11]>>[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5]([O:6][H:16])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],88.8075128319292
[C:1]([N:2]([C:3](=[O:4])[H:11])[C:5]([O:6][H:13])=[C:7]([H:12])[H:14])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:3](=[O:4])[H:11])[C:5](=[O:6])[C:7]([H:12])([H:13])[H:14])([H:8])([H:9])[H:10],40.496619906868894
[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C-:3]#[O+:4].[C:1]([O:2][C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],108.603483843837
[C:1]([C:2]([C@@:3]([O:4][H:14])([C@@:5]([C:6]([H:16])([H:17])[H:18])([O:7][H:19])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C:6]([C:5](=[O:7])[H:15])([H:16])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[H:17][H:19],102.042310059434
[C:1]([C:3]([C:4]([C-:2]=[C:5]=[C+:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]1([C:5]#[C:6][H:14])[C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])([H:7])([H:8])[H:9],43.54988648825091
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([O:7]/[C:6](=[N:4]/[C:5]([H:15])([H:16])[H:17])[H:18])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([N:4]([C:5]([H:15])([H:16])[H:17])[C:6](=[O:7])[H:18])[H:11])([H:8])([H:9])[H:10],51.39183007517009
[C:1]([O:2][C:3]([C@@:4]([C:5]([H:13])([H:14])[H:15])([O:6][H:16])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3]([C:4][O:6][H:16])([H:10])[H:11])([H:7])([H:8])[H:9].[C:5]([H:12])([H:13])([H:14])[H:15],88.48175381450199
[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[O:5][H:15])([H:6])([H:7])[H:8]>>[C:1]([C:2](=[C:3]([H:9])[H:10])[O:5][H:15])([H:6])([H:7])[H:8].[C:4]([H:11])([H:12])([H:13])[H:14],105.270630806785
